US05332837
Preparation of (S)-6-[[6-[[6-(aminocarbonyl)-3,6,7,8-tetrahydro-5-hydroxy-4-methoxybenzo[1,2-b:4,3-b']dipyrrol-2-yl]-carbonyl]-3,6,7,8-tetrahydro-5-hydroxy-4-methoxybenzo[1,2-b:4,3-b']dipyrrol-2-yl]carbonyl]-8-(chloromethyl)-3,6,7,8-tetrahydro-1-methylbenzo[1,2-b:4,3-b']dipyrrol-4-yl hexanoate (Cpd #5)
An 11 mg (0.016 mmole) quantity CC-1065 is dissolved in 150 μl pyridine. Add 4 μl hexanoyl chloride and follow the reaction by HPLC. Two more 4 μl portions of hexanoyl chloride are added after 35 and 70 minutes reaction time. (The reaction to the intermediate chlorophenol is fast but acylation to the desired hexanoate is not only slow but also not entirely selective since an even less polar product appears before all the chlorophenol has been converted to the desired hexanoate.) After a total of 3 hours reaction, the mixture is transferred to a conical test tube, and washed with 100 μl pyridine. Then 5 ml water is added and a solid precipitates. The solid is spun down in a centrifuge and the liquid phase removed. This procedure is repeated with 5 ml water and 1.5 ml methanol. The solid is then dried under vacuum. HPLC of the 3 washes shows only small amounts of material present as a mixture of product and less polar side product.

reactant | CC-1065 | CC1=CNC2=C1C34CC3CN(C4=CC2=O)C(=O)C5=CC6=C7C(=C(C(=C6N5)OC)O)N(CC7)C(=O)C8=CC9=C1C(=C(C(=C9N8)OC)O)N(CC1)C(=O)N | C37H33N7O8
reactant | hexanoyl chloride | 4 μl | C(CCCCC)(=O)Cl | C6H11ClO
reactant | chlorophenol | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | hexanoate | C(CCCCC)(=O)[O-]
reactant | pyridine | 150 μl | N1=CC=CC=C1 | C5H5N
product | (S)-6-[[6-[[6-(aminocarbonyl)-3,6,7,8-tetrahydro-5-hydroxy-4-methoxybenzo[1,2-b:4,3-b']dipyrrol-2-yl]-carbonyl]-3,6,7,8-tetrahydro-5-hydroxy-4-methoxybenzo[1,2-b:4,3-b']dipyrrol-2-yl]carbonyl]-8-(chloromethyl)-3,6,7,8-tetrahydro-1-methylbenzo[1,2-b:4,3-b']dipyrrol-4-yl hexanoate | C(CCCCC)(=O)OC1=CC=2N(C[C@H](C2C2=C1NC=C2C)CCl)C(=O)C2=CC1=C(N2)C(=C(C=2N(CCC21)C(=O)C2=CC1=C(N2)C(=C(C=2N(CCC21)C(=O)N)O)OC)O)OC | C43H44ClN7O9
